US06562811B1
To a solution of tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-1,4-dihydro-3-pyridinecarboxylate (1.200 g, 2.007 mmol) in methylene chloride (20.0 mL) at room temperature was added chloranil (0.543 g, 2.208 mmol), and the stirring was continued for 1 hr. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was extracted with ethyl acetate and 10% aqueous NaHCO3 solution. The separated organic phase was washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was crystallized from ethanol to give tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}nicotinate as a pale yellow solid (0.972 g, yield; 84%).

reactant | tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-1,4-dihydro-3-pyridinecarboxylate | 2.007 mmol, 1.200 g | NC=1NC(=CC(C1C(=O)OC(C)(C)C)C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C36H43N3O5
reactant | chloranil | 2.208 mmol, 0.543 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | methylene chloride | 20.0 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}nicotinate | 0.972 g, yield; 84% | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C36H41N3O5
